US07884234B2
(4) Preparation of N-(3,5-dimethylbenzyl)-N-[4′-(trifluoromethoxy)biphenyl-4-yl]oxamic Acid Sodium Salt (Compound No. 1)
N-(3,5-dimethylbenzyl)-N-[4′-(trifluoromethoxy)biphenyl-4-yl]oxamate (200 mg, 0.437 mmol), 2N aqueous sodium hydroxide (2 ml) and water (1 ml) was irradiated with ultrasound for 5 minutes. The reaction mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (130 mg, 66%) as a white solid.

reactant | N-(3,5-dimethylbenzyl)-N-[4′-(trifluoromethoxy)biphenyl-4-yl]oxamate | 0.437 mmol, 200 mg | CC=1C=C(CN(C(C(=O)[O-])=O)C2=CC=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)C=C(C1)C
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | N-(3,5-dimethylbenzyl)-N-[4′-(trifluoromethoxy)biphenyl-4-yl]oxamic Acid Sodium Salt | 130 mg, 66% | [Na+].CC=1C=C(CN(C(C(=O)[O-])=O)C2=CC=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)C=C(C1)C | InChI=1S/C24H20F3NO4.Na/c1-15-11-16(2)13-17(12-15)14-28(22(29)23(30)31)20-7-3-18(4-8-20)19-5-9-21(10-6-19)32-24(25,26)27;/h3-13H,14H2,1-2H3,(H,30,31);/q;+1/p-1
